US09034880B2
Preparation of 8-Chloro-2-methyl-5-(2-pyrrol-1-yl-ethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (Compound 349)
8-Chloro-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.1 g, 0.45 mmol) was dissolved in N-methyl 2-pyrolidone (3.0 mL). Powdered potassium hydroxide (0.224 g, 4 mmol) was added and heated at 100 deg C. for 3 h. 2-(2-Bromo-ethyl)pyridine (0.09 g, 0.51 mol) was added at the same temperature and stir for 3 h at RT Reaction mixture was diluted with water (30 mL) and extracted with ethyl acetate (3×50 mL). Organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure using rotary evaporator. The crude was purified through column chromatography (4% MeOH:DCM in silica 100-200 mesh, Diameter of column—2.5 cm, Height of silica—approx. 5 inch) to provide the desired compound as light yellow oil (0.01 g, 7% yield). 8-Chloro-2-methyl-5-(2-pyrrol-1-yl-ethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.010 g, 0.0319 mmol) was dissolved in THF (0.5 mL), A solution of oxalic acid dihydrate (0.004 g, 0.0319 mol) in THF (0.5 mL) was added and stirred for 30 min at RT. The precipitate was filtered and dried to give oxalate salt as white solid (0.01 g, 78% yield).

reactant | 8-Chloro-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.45 mmol, 0.1 g | ClC1=CC=2C3=C(NC2C=C1)CCN(C3)C | C12H13ClN2
reactant | potassium hydroxide | 4 mmol, 0.224 g | [OH-].[K+]
reactant | 2-(2-Bromo-ethyl)pyridine | 0.51 mol, 0.09 g | BrCCC1=NC=CC=C1 | C7H8BrN
solvent | N-methyl 2-pyrolidone | 3.0 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 30 mL | O | H2O
product | 8-Chloro-2-methyl-5-(2-pyrrol-1-yl-ethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.01 g, 7% yield | ClC1=CC=2C3=C(N(C2C=C1)CCN1C=CC=C1)CCN(C3)C | C18H20ClN3
